US07737141B2
Synthesis of (R)-1-[(S)-5-(3,4,5-trifluorophenyl)-pyrrolidine-2-yl]ethanol
To a solution of (S)-2-((R)-1-hydroxylethyl-5-(3,4,5-trifluorophenyl)pyrrolidine-1-carboxylic acid t-butyl ester (3.71 g) in ethyl acetate (20 mL) was added 4 N hydrochloric acid/ethyl acetate (26.8 mL), and the resultant solution was stirred at room temperature for 2 hours. Solvent was removed by distillation under reduced pressure, and the resultant product was diluted with 5 N aqueous sodium hydroxide and dichloromethane. The organic layer was partitioned and then dried over anhydrous magnesium sulfate. Solvent was removed by distillation under reduced pressure, to thereby obtain the titled compound (2.6 g). The physical properties of this crude product were as follows.

reactant | (R)-1-hydroxylethyl-5-(3,4,5-trifluorophenyl)pyrrolidine-1-carboxylic acid t-butyl ester | 3.71 g | C(C)(C)(C)OC(=O)N1[C@H](CCC1C1=CC(=C(C(=C1)F)F)F)C(C)O | C17H22F3NO3
reactant | hydrochloric acid ethyl acetate | 4 N, 26.8 mL | Cl.C(C)(=O)OCC
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | (R)-1-[(S)-5-(3,4,5-trifluorophenyl)-pyrrolidine-2-yl]ethanol | 2.6 g | FC=1C=C(C=C(C1F)F)C1CC[C@H](N1)[C@@H](C)O | C12H14F3NO
